US07498337B2
tert-butyl{[5-(2,4-difluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
By a similar operation as in Reference Example 79 and using tert-butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (300 mg), (2,4-difluorophenyl)boronic acid (198 mg), tetrakis(triphenylphosphine)palladium (40 mg) and sodium carbonate (220 mg), the title compound was obtained as a colorless oil (yield 113 mg, 50%).

reactant | tert-butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 300 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)Br)S(=O)(=O)C=1C=NC=CC1)=O | C16H20BrN3O4S
reactant | (2,4-difluorophenyl)boronic acid | 198 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 220 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl{[5-(2,4-difluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | C(C)(C)(C)OC(N(C)CC1=CNC(=C1)C1=C(C=C(C=C1)F)F)=O | C17H20F2N2O2
